US06369086B1
N-(3-Hydroxy-2,2-dimethyl-propyl)-4-[(7-oxo-6,7-dihydro-1-thia-3,6-diaza-as-indacen-8-ylidenemethyl)-amino]-benzenesulfonamide (Z-isomer)
The title compound was prepared from 8-ethoxymethylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one and 4-amino-N-(3-hydroxy-2,2-dimethyl-propyl)benzenesulfonamide according to Procedure J: mp>250° C.; 1H NMR (DMSO-d6): δ0.74 (s, 6H), 2.52 (d, J=6.7 Hz, 2H), 3.06 (bs, 2H), 4.43 (bs, 1H), 7.10 (d, J=8.3 Hz, 1H), 7.32 (t, J=6.7 Hz, 1H), 7.58 (d, J=8.8 Hz, 2H), 7.77 (d, J=8.8 Hz, 2H), 7.81 (d, J=8.3 Hz, 1H), 8.07 (d, J=12.2 Hz, 1H), 9.26 (s, 1H), 10.91 (s, 1H), 11.16 (d, J=12.3 Hz, 1H); APCI−MS: m/z 457 (M−H)−. Anal. Calcd for C21H22N4O4S2: C, 55.01; H, 4.84; N, 12.22; S, 13.98. Found: C, 54.90; H, 4.86; N, 12.25; S, 13.94.

reactant | 8-ethoxymethylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one | C(C)OC=C1C(NC2=CC=C3N=CSC3=C12)=O | C12H10N2O2S
reactant | 4-amino-N-(3-hydroxy-2,2-dimethyl-propyl)benzenesulfonamide | NC1=CC=C(C=C1)S(=O)(=O)NCC(CO)(C)C | C11H18N2O3S
product | N-(3-Hydroxy-2,2-dimethyl-propyl)-4-[(7-oxo-6,7-dihydro-1-thia-3,6-diaza-as-indacen-8-ylidenemethyl)-amino]-benzenesulfonamide | OCC(CNS(=O)(=O)C1=CC=C(C=C1)NC=C1C(NC2=CC=C3N=CSC3=C12)=O)(C)C | C21H22N4O4S2
